US05387747
70.7 g of p-toluidine, cooled with a bath of water and ice, are treated with 205 ml of 36% HCl. The mixture is then stirred at 55°-60° C. for 30 min before being cooled to 0° C. again. A solution of 45 g of NaNO2 in 220 ml of water is then introduced. The mixture is stirred for 1 h at 0° C. This cold solution is introduced into a mixture of 49.3 g of 3-furanoic acid, 220 ml of acetone, 23.4 g of CuCl2 and 6.3 g of water, cooled to -5° C. The whole is stirred at 0° C. for 2 h and then at room temperature for 48 h. It is extracted twice with ether and the organic phase is decanted, dried and concentrated to give an oil, which gives crystals when treated with water. The crystals are filtered off and washed with 50 ml of a 50% methanol/water mixture to give 13.4 g of 2-(4-methylphenyl)-3-furanoic acid.

reactant | p-toluidine | 70.7 g | NC1=CC=C(C=C1)C | C7H9N
reactant | HCl | 205 ml | Cl | ClH
reactant | NaNO2 | 45 g | N(=O)[O-].[Na+]
reactant | 3-furanoic acid | 49.3 g | O1C=C(C=C1)C(=O)O | C5H4O3
solvent | water | 220 ml | O | H2O
solvent | water | 6.3 g | O | H2O
solvent | acetone | 220 ml | CC(=O)C | C3H6O
product | 2-(4-methylphenyl)-3-furanoic acid | 13.4 g | CC1=CC=C(C=C1)C=1OC=CC1C(=O)O | C12H10O3
